US05344843
A mixture of 4-[[3-(4-fluorophenyl)propyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.58 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided 0.55 g which solidified and was crystallized from diethyl etherhexane to give 0.43 g of colorless 4-[[3-(4-fluorophenyl)propyl]oxy]-alpha-oxobenzeneacetic acid, mp 77°-78° C.

reactant | 4-[[3-(4-fluorophenyl)propyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.58 g | COC(C(C1=CC=C(C=C1)OCCCC1=CC=C(C=C1)F)=O)=O | C18H17FO4
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 4-[[3-(4-fluorophenyl)propyl]oxy]-alpha-oxobenzeneacetic acid | 0.43 g | FC1=CC=C(C=C1)CCCOC1=CC=C(C=C1)C(C(=O)O)=O | C17H15FO4
